US09169209B2
B. 4-((3-(trifluoromethoxy)phenyl)sulfonyl)aniline
To a solution of N-(4-((3-(trifluoromethoxy)phenyl)sulfonyl)phenyl)acetamide (104 mg, 0.29 mmol) in EtOH (8 mL) is added NaOH (10 M in water, 0.6 mL, 6 mmol). The mixture is heated at 80° C. for 4 h and the solvent is evaporated. The residue is partitioned between EtOAc (15 mL) and brine (10 mL) and the layers are separated. The aqueous layer is extracted with EtOAc (10 mL) and the combined extracts are dried (Na2SO4) and evaporated. The white solid obtained (86 mg, 93%) is used to the next step without further purification.

reactant | N-(4-((3-(trifluoromethoxy)phenyl)sulfonyl)phenyl)acetamide | 0.29 mmol, 104 mg | FC(OC=1C=C(C=CC1)S(=O)(=O)C1=CC=C(C=C1)NC(C)=O)(F)F | C15H12F3NO4S
reactant | NaOH | 6 mmol, 10 M, 0.6 mL | [OH-].[Na+]
solvent | EtOH | 8 mL | CCO | C2H6O
product | 4-((3-(trifluoromethoxy)phenyl)sulfonyl)aniline | FC(OC=1C=C(C=CC1)S(=O)(=O)C1=CC=C(N)C=C1)(F)F | C13H10F3NO3S
